US07115595B2
To a solution of 4-nitrobenzyl [(2R,3S)-3-[(1R)-1-hydroxyethyl]-2-(2-{4-[(methylamino)carbonyl]phenyl}-2-oxoethyl)-4-oxo-1-azetidinyl]-(triphenylphosphoranylidene)acetate (844 mg) in THF (20 ml) was added N,O-bis(trimethylsilyl)acetamide (1.38 g) and 2,6-di-tert-butyl-p-cresol (25 mg) at room temperature, and the mixture was heated with stirring at bath temperature of 80° C. for 2 hours. The solvent was evaporated under reduced pressure to give 4-nitrobenzyl ((2R,3S)-2-(2-{4-[(methyl amino)carbonyl]phenyl}-2-oxoethyl)-4-oxo-3-{(1R)-1-[(trimethylsilyl)oxy]-ethyl}-1-azetidinyl)(triphenylphosphoranylidene)acetate, which was used in the subsequent step without further purification.

reactant | 4-nitrobenzyl [(2R,3S)-3-[(1R)-1-hydroxyethyl]-2-(2-{4-[(methylamino)carbonyl]phenyl}-2-oxoethyl)-4-oxo-1-azetidinyl]-(triphenylphosphoranylidene)acetate | 844 mg | O[C@H](C)[C@@H]1[C@H](N(C1=O)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)C1=CC=C(C=C1)C(=O)NC | C42H38N3O8P
reactant | N,O-bis(trimethylsilyl)acetamide | 1.38 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 2,6-di-tert-butyl-p-cresol | 25 mg | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-nitrobenzyl ((2R,3S)-2-(2-{4-[(methyl amino)carbonyl]phenyl}-2-oxoethyl)-4-oxo-3-{(1R)-1-[(trimethylsilyl)oxy]-ethyl}-1-azetidinyl)(triphenylphosphoranylidene)acetate | CNC(=O)C1=CC=C(C=C1)C(C[C@H]1N(C([C@@H]1[C@@H](C)O[Si](C)(C)C)=O)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C45H46N3O8PSi
